US08222416B2
A mixture of 2-[1-(4-methanesulfonyl-phenyl)-2-(tetrahydro-pyran-2(S)-yl)-vinyl]-1H-pyrrolo[2,3-b]pyridine (220 mg, 5.7 mmol) and 10% palladium on activated carbon (66 mg) in methanol (200 mL) was heated at 50° C. under hydrogen (50 psi) and kept for 16 h. The mixture was cooled to 25° C., the catalyst was removed by filtration and then washed with ethyl acetate and the filtrate concentrated in vacuo. Purification using a Waters automated flash system (column: Xterra 30 mm×100 mm, sample manager 2767, pump 2525, detector: ZQ mass and UV 2487, solvent system: acetonitrile and 0.1% ammonium hydroxide in water) afforded 2-[1-(4-methanesulfonyl-phenyl)-2-(tetrahydro-pyran-2-yl)-ethyl]-1H-pyrrolo[2,3-b]pyridine (60 mg, 27%) as a mixture of two diastereoisomers: LC/MS m/e calcd for C21H24N2O3S [M+H]+ 385.50, observed 385.2; 1H NMR (400 MHz, CDCl3) δ ppm 1.34-1.67 (m, 5H), 1.82 (m, 1H), 2.15 (m, 1H), 2.36 (m, 1H), 3.05, 3.09 (2×s, 3H), 3.21-3.40 (m, 2H), 4.13, 4.18 (2×m, 1H), 4.61, 4.67 (2×dd, 1H), 6.33, 6.42 (2×s, 1H), 7.18, 7.26 (2×m, 1H), 7.52, 7.59 (d, J=8.5 Hz, 2H), 7.89, 7.94 (2×m, 3H), 8.16 (m, 1H), 11.47 (br, 1H).

reactant | 2-[1-(4-methanesulfonyl-phenyl)-2-(tetrahydro-pyran-2(S)-yl)-vinyl]-1H-pyrrolo[2,3-b]pyridine | 5.7 mmol, 220 mg | CS(=O)(=O)C1=CC=C(C=C1)C(=C[C@H]1OCCCC1)C1=CC=2C(=NC=CC2)N1 | C21H22N2O3S
catalyst | palladium on activated carbon | 66 mg | [Pd] | Pd
solvent | methanol | 200 mL | CO | CH4O
product | 2-[1-(4-methanesulfonyl-phenyl)-2-(tetrahydro-pyran-2-yl)-ethyl]-1H-pyrrolo[2,3-b]pyridine | 60 mg, 27% | CS(=O)(=O)C1=CC=C(C=C1)C(CC1OCCCC1)C1=CC=2C(=NC=CC2)N1 | C21H24N2O3S
